US04283414
α-Fluoro-3-phenoxybenzyl 3-(2-methylprop-1-enyl)-2,2-dimethylcyclopropanecarboxylate (5)
This compound was prepared from 3-(2-methylprop-1-enyl)-2,2-dimethylcyclopropanecarboxylic acid and α-fluoro-3-phenoxybenzylbromide following the procedure described in Example 2 Method B. The product, a colourless oil, was characterised by pmr spectroscopy. Chemical shift δ ppm (solvent CDCl3): 1.24(6H, m, C(CH3)2); 1.70(6H, s, (CH3)2C=); about 1.9(2H, m, cyclopropyl protons); 4.93 and 5.43(1H, 2xd, J=7Hz, vinyl proton); 7.13(1H, d, J=56Hz, CHF); about 7.1(9H, m, aromatic protons).

reactant | 3-(2-methylprop-1-enyl)-2,2-dimethylcyclopropanecarboxylic acid | CC(=CC1C(C1C(=O)O)(C)C)C | C10H16O2
reactant | α-fluoro-3-phenoxybenzylbromide | FC(C1=CC(=CC=C1)OC1=CC=CC=C1)Br | C13H10BrFO
product | α-Fluoro-3-phenoxybenzyl 3-(2-methylprop-1-enyl)-2,2-dimethylcyclopropanecarboxylate | CC(=CC1C(C1C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)F)(C)C)C | C23H25FO3
